US07037990B2
A 250-mL round-bottomed flask was charged with 2,4,6-trimethylaniline (mesidine, 11.88 mL, 84.62 mmol) and 50 mL of pyridine. To this mixture, a solution of p-toluenesulfonyl chloride (16.13 g, 84.62 mmol) in pyridine (50 mL) was added, and the reaction mixture was stirred at room temperature for 17 h. The reaction mixture was poured into 800 mL of acidic ice water containing 125 ml of 37% HCl. The mixture was cooled to 0° C. for 3 h, and a yellow solid precipitated. The yellow solid was collected by filtration and dissolved in 18 L of 5% NaOH. To this solution, 1850 mL of 37% HCl was added until the mixture reached a pH of 5. The resulting white precipitate was collected and washed with 800 mL of water and then dried in vacuo to give N-(p-toluenesulfonyl)-2,4,6-trimethylaniline (N-(p-toluenesulfonyl)mesidine) (21.73 g, 89%). 1H NMR (300 MHz, CDCl3): δ7.6 (d, 2H), 7.2 (d, 2H), 6.8 (s, 2H), 5.9 (s, 1H), 2.4 (s, 3H), 2.3 (s, 3H) 2.0 (s, 3H).

reactant | 2,4,6-trimethylaniline | 84.62 mmol, 11.88 mL | CC1=C(N)C(=CC(=C1)C)C | C9H13N
reactant | p-toluenesulfonyl chloride | 84.62 mmol, 16.13 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | Cl | ClH
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | N-(p-toluenesulfonyl)-2,4,6-trimethylaniline | 21.73 g, 89% | C1(=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1C)C)C)C | C16H19NO2S
